US06331640B1
A solution of 2-chloro-4-[[(3,5-dimethoxybenzyl)amino]carbonyl]benzoic acid, methyl ester (0.50 g, 1.4 mmol) in dry dichloromethane (20 mL) was cooled to −78° C. A solution of boron tribromide (1 M in dichloromethane; 10 mL, 10 mmol) was added and the solution was allowed to warm to room temperature and stir overnight. The reaction mixture was poured into water (200 mL) and extracted with ethyl acetate (2×100 mL). The combined organic layers were washed with brine (200 mL), dried (MgSO4), filtered, and evaporated to give 2-chloro-4-[[[(3,5-dihydroxyphenyl)methyl]amino]carbonyl]benzoic acid, methyl ester (400 mg, 90%) as a white solid, mp 152-155° C.

reactant | 2-chloro-4-[[(3,5-dimethoxybenzyl)amino]carbonyl]benzoic acid, methyl ester | 1.4 mmol, 0.50 g | ClC1=C(C(=O)OC)C=CC(=C1)C(=O)NCC1=CC(=CC(=C1)OC)OC | C18H18ClNO5
reactant | boron tribromide | 10 mmol, 1 M, 10 mL | B(Br)(Br)Br | BBr3
reactant | water | 200 mL | O | H2O
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 2-chloro-4-[[[(3,5-dihydroxyphenyl)methyl]amino]carbonyl]benzoic acid, methyl ester | 400 mg, 90% | ClC1=C(C(=O)OC)C=CC(=C1)C(=O)NCC1=CC(=CC(=C1)O)O | C16H14ClNO5
